US05206370
Synthesis of 6-hydrazinopyridine-3-carboxylic acid
6-Chloronicotinic acid (8.0 g) was added to 85% hydrazine hydrate (35 ml). The reaction mixture was placed in a 100° C. oil bath for 4 hours. The homogeneous reaction mixture was concentrated to dryness to give a white solid. The solid was dissolved in water and on acidification to pH 5.5 with concentrated hydrochloric acid a precipitate formed. The precipitate was isolated by filtration and the solid was washed with 95% ethanol and ether to give 6.0 g of a pale brown solid; yield 77% m.p. 292°-293° C.;

reactant | 6-Chloronicotinic acid | 8.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | hydrazine hydrate | 35 ml | O.NN
solvent | water | O | H2O
solvent | hydrochloric acid | Cl | ClH
product | 6-hydrazinopyridine-3-carboxylic acid | 6.0 g, yield 77% | N(N)C1=CC=C(C=N1)C(=O)O | C6H7N3O2
